US09428502B2
Compound 300.1. Ethyl 4-methoxycyclohexanecarboxylate
Into a 100-mL round-bottom flask, was placed a solution of ethyl 4-hydroxycyclohexane-1-carboxylate (1 g, 5.81 mmol) in tetrahydrofuran (20 mL). Sodium hydride (349 mg, 8.72 mmol, 60%) was added to the reaction at 0° C. in portions, then stirred for 20 min. This was followed by the addition of CH3I (865 μL, 11.6 mmol) at 0° C. The reaction mixture was stirred overnight at room temperature, quenched with 6 mL of brine and extracted with 3×40 mL of ether. The combined organic layers were washed with 2×20 mL of brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford 800 mg (74%) of the title compound as a colorless oil.

reactant | ethyl 4-hydroxycyclohexane-1-carboxylate | 5.81 mmol, 1 g | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | Sodium hydride | 8.72 mmol, 349 mg | [H-].[Na+]
reactant | CH3I | 11.6 mmol, 865 μL | CI | CH3I
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl 4-methoxycyclohexanecarboxylate | 800 mg, 74% | COC1CCC(CC1)C(=O)OCC | C10H18O3
